US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-2-chlorophenyl)-4-phenethylpiperazine (65 mg). Thus obtained crude product was purified on TLC (developer, chloroform: methanol=17:1) to provide 3-chloro-4-(4-phenethylpiperazin-1-yl)phenol (29 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-2-chlorophenyl)-4-phenethylpiperazine | 65 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)Cl | C25H27ClN2O
product | 3-chloro-4-(4-phenethylpiperazin-1-yl)phenol | 29 mg | ClC=1C=C(C=CC1N1CCN(CC1)CCC1=CC=CC=C1)O | C18H21ClN2O
